US06359145B1
(2S)-2-benzyloxy-6-phenylhexan-3-ol was prepared from (3S)-3-benzyloxy-1,2-epoxybutane (obtained in Preparation 9) and phenethylmagnesium chloride.

reactant | (3S)-3-benzyloxy-1,2-epoxybutane | C(C1=CC=CC=C1)O[C@H](C1CO1)C | C11H14O2
reactant | phenethylmagnesium chloride | C(CC1=CC=CC=C1)[Mg]Cl
product | (2S)-2-benzyloxy-6-phenylhexan-3-ol | C(C1=CC=CC=C1)O[C@@H](C)C(CCCC1=CC=CC=C1)O | C19H24O2
